Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization with two DES ___

 
History of Present Illness:
Ms. ___ is ___ ___ with history of HTN, HLD p/w exertional 
chest pain. 

She first noticed central chest burning with walking 2 weeks 
ago. Since then she has had chest burning with exertion almost 
every day. No associated dyspnea, diaphoresis, nausea. She was 
evaluated at ___'s office today and was found to have new ECG 
changes (poor R wave progression, T wave flattening V4,5,6). She 
received got full dose ASA and was sent to ED for further 
evaluation. 

Of not she has no previous history of chest pain. No recent 
fevers/chills, abdominal pain, or dyspnea. 

In the ED, intial vitals were: 98.3 67 135/94 16 98% RA  
Labs/studies notable for: Trop 0.02

UA notable for leukocytosis with 17 WBCs. Normal CBC and 
electrolytes. Guaiac negative. 

Atrius on call cardiology was consulted from the ED. Per their 
recommendations, she was started on heparin drip and admitted to 
cardiology for unstable angina, consideration of cardiac 
catheterization. 

Of note, she is followed by Dr. ___. Previous ECG in 
___ showed LVH and small inferior Q waves. She had stress 
echo ___ with exercise duration of 9:27 without angina (beta 
blocker was held by patient for the test). ECG response was 
non-diagnostic without ischemia. Mild LVH was noted.
 
On the floor she reported no chest pain.  

 
Past Medical History:
HTN
h/o diverticulitis 
Glaucoma

 
Social History:
___
Family History:
Diabetes mother, father.
Maternal grandmother CAD/PVD; Diabetes - Unknown Type; 
Hyperlipidemia; Hypertension; Stroke
Sister breast cancer  
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS: 98.2 160/90 74 18 99%ra  wt 71kg 
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: no elev JVP  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts. 
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  Distal pulses palpable and symmetric

DISCHARGE PHYSICAL EXAMINATION:  
VS: 99.4 98.7 113/68 80 20 98RA
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: no elev JVP  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts. 
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. 
PULSES:  Distal pulses palpable and symmetric
 
Pertinent Results:
SELECTED LABORATORY TESTS:
___ 04:56PM BLOOD WBC-5.0 RBC-4.67 Hgb-13.0 Hct-38.9 MCV-83 
MCH-27.9 MCHC-33.4 RDW-13.8 Plt ___
___ 05:10AM BLOOD WBC-5.3 RBC-4.41 Hgb-12.2 Hct-36.3 MCV-82 
MCH-27.7 MCHC-33.6 RDW-13.4 Plt ___
___ 04:56PM BLOOD Neuts-30.4* Lymphs-61.4* Monos-4.8 
Eos-2.5 Baso-0.9
___ 04:56PM BLOOD ___ PTT-29.8 ___
___ 04:56PM BLOOD Glucose-162* UreaN-14 Creat-0.9 Na-142 
K-3.9 Cl-103 HCO3-25 AnGap-18
___ 05:10AM BLOOD Glucose-102* UreaN-19 Creat-0.9 Na-141 
K-4.0 Cl-105 HCO3-26 AnGap-14
___ 05:10AM BLOOD CK(CPK)-131
___ 04:56PM BLOOD cTropnT-0.02*
___ 05:10AM BLOOD CK-MB-2 cTropnT-0.02*
___ 11:00AM BLOOD cTropnT-0.01
___ 07:15PM BLOOD CK-MB-6 cTropnT-0.08*
___ 05:05AM BLOOD CK-MB-25* MB Indx-8.5* cTropnT-0.17*
___ 11:00AM BLOOD CK-MB-21* MB Indx-6.8* cTropnT-0.19*
___ 05:10AM BLOOD CK-MB-7 cTropnT-0.23*
___ 05:10AM BLOOD Calcium-9.7 Phos-4.0 Mg-2.1

CXR ___: No acute cardiopulmonary abnormality
 
Brief Hospital Course:
Ms. ___ is ___ ___ with history of HTN, HLD now presenting with 
exertional chest pain. 

She had increasing frequency of exertional chest pain, with 
office EKG showing T wave flattening. Troponin 0.02 in ED. She 
underwent cardiac catheterization on ___. She was noted to have 
proximal RCA 100% focal stenosis, (3.8x18 DES) and mid RCA 80% 
tubular stenosis (3x30 DES). Catheterization also demonstrated 
LAD ___ proximal stenosis, first diagonal 50-60% proximal 
stenosis. She was subsequently continued on clopidogrel, 
aspirin, atorvastatin, and atenolol. Troponin and CK-MB was 
elevated in the post-procedural setting with subsequent 
normalization of CK-MB suggesting resolving cardiac injury.

TRANSITION ISSUES:
- She will need close followup in the post-procedural setting 
for unstable angina
- She will benefit from cardiac rehabilitation

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 2.5 mg PO DAILY 
2. Atenolol 50 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 

 
Discharge Medications:
1. Atenolol 50 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth Once every evening 
Disp #*30 Tablet Refills:*0
3. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Once a day Disp #*30 
Tablet Refills:*0
4. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth Once a day Disp #*30 
Tablet Refills:*0
5. Lisinopril 2.5 mg PO DAILY 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth Once a day Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Unstable angina, complete occlusion of RCA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure being part of your care at ___. You were 
admitted to the hospital due to chest pain and concerning 
findings on EKG. You had cardiac catheterization which showed 
blockage of the blood vessels in the heart. A stent was placed. 
You were monitored after the procedure and were found to be safe 
for discharge.

After discharge please follow up with your outpatient providers 
as described below.
 
Followup Instructions:
___